US07968573B2
To a mixture of 9.2 g of 2-(3-bromo-1H-pyrazol-1-yl)-3-chloropyridine and 80 ml of tetrahydrofuran was added dropwise 21.3 ml of a 2.0M lithium diisopropylamide solution in heptane/tetrahydrofuran/ethylbenzene at −78° C. The resulting mixture was stirred at −78° C. for 15 minutes, poured to a mixture of dry ice and 50 ml of tetrahydrofuran, and stirred for 1 hour with allowing it to rise to around room temperature. After water and diethyl ether were poured into the reaction mixture, the aqueous layer was adjusted to pH 10-12 by an addition of a 2N aqueous sodium hydroxide solution and layers were separated. The resulting aqueous layer was washed with diethyl ether two times, adjusted to around pH 3 by an addition of 2N hydrochloric acid, and extracted with methyl tert-butyl ether three times. The organic layers were combined, washed with an aqueous saturated sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure to obtain 7.96 g of 3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid of the formula:

reactant | 2-(3-bromo-1H-pyrazol-1-yl)-3-chloropyridine | 9.2 g | BrC1=NN(C=C1)C1=NC=CC=C1Cl | C8H5BrClN3
reactant | lithium diisopropylamide | 2.0M | C(C)(C)[N-]C(C)C.[Li+]
reactant | dry ice | C(=O)=O | CO2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | heptane tetrahydrofuran ethylbenzene | CCCCCCC.O1CCCC1.C(C)C1=CC=CC=C1
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid | 7.96 g | BrC1=NN(C(=C1)C(=O)O)C1=NC=CC=C1Cl | C9H5BrClN3O2
